US07893091B2
The title compound was prepared as described in U.S. Pat. No. 5,750,549 or was obtained from its ½ TEA salt as described in U.S. Pat. No. 6,479,518 and J. Org. Chem., 67, 5993-6000 (2002). In the latter case, the ½ TEA salt was suspended in water, the water was acidified with 2N HCl until the pH was less than 2, and the mixture was extracted twice with ethyl acetate. The ethyl acetate layers were each successively washed with brine, combined, and dried over sodium sulfate. Removal of solvent in vacuo afforded the free acid as a thick oil which solidified on standing. Method B: The title compound was also prepared as follows. To a 100 L flask was charged sequentially 113.3 g (0.50 mol) of Pd(OAc)2, 331.4 g (1.11 mol) of 2-(di-t-butylphosphino)biphenyl, 2.476 kg (25.24 mol) of 1, 3-cyclopentanedione, and 10.72 kg (50.5 mol) of powdered K3PO4. The resulting mixture was degassed (3×) by vacuum/N2 back fills. The vessel was then charged with 26 L of 1, 4-dioxane and 4.28 kg (32.78 mol) of 1-chloro-4-fluorbenzene and the vessel degassed (3×) with vacuum/N2 back fills. The resulting slurry was heated to reflux for 12 h, cooled to rt, and water (23 L) was added. The vessel was rinsed with an additional 6 L of water and the reaction mixture further diluted with an additional 46 L of water. To the homogeneous solution was added 9 L of conc. HCl to adjust the pH to 1 and the solution aged for 2.5 h. The slurry was then filtered and the cake washed with 17 L of water and 17 L of toluene. The solid was then dried at 60° C. for 48 h, providing 2-(4-fluoro-phenyl)-1,3-cyclopentanedione as a light tan solid.

reactant | 2-(di-t-butylphosphino)biphenyl | 1.11 mol, 331.4 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | K3PO4 | 50.5 mol, 10.72 kg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-chloro-4-fluorbenzene | 32.78 mol, 4.28 kg | ClC1=CC=C(C=C1)F | C6H4ClF
reactant | 1, 4-dioxane | 26 L | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.50 mol, 113.3 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(4-fluoro-phenyl)-1,3-cyclopentanedione | FC1=CC=C(C=C1)C1C(CCC1=O)=O | C11H9FO2
